US07553845B2
4-[N-(ethoxycarbonyl)amino]-1-[2-(3-methoxy-4-nitrophenyl)-2-oxoethyl]pyridinium Bromide
This compound is prepared according to the same method as that described in Example 47, Step A by quaternization of 1.21 g (7.33 mmol) of ethyl 4-pyridinylcarbamate [described in J. Chem. Soc.; (1962), 2379-2381] with 2-bromo-1-(3-methoxy-4-nitrophenyl)-1-ethanone in dichloromethane. 3.24 g of a white precipitate are obtained.

reactant | ethyl 4-pyridinylcarbamate | 7.33 mmol, 1.21 g | N1=CC=C(C=C1)NC(OCC)=O | C8H10N2O2
reactant | 2-bromo-1-(3-methoxy-4-nitrophenyl)-1-ethanone | BrCC(=O)C1=CC(=C(C=C1)[N+](=O)[O-])OC | C9H8BrNO4
solvent | dichloromethane | ClCCl | CH2Cl2
product | 4-[N-(ethoxycarbonyl)amino]-1-[2-(3-methoxy-4-nitrophenyl)-2-oxoethyl]pyridinium Bromide | 3.24 g, Yield: 100% | [Br-].C(C)OC(=O)NC1=CC=[N+](C=C1)CC(=O)C1=CC(=C(C=C1)[N+](=O)[O-])OC | InChI=1S/C17H17N3O6.BrH/c1-3-26-17(22)18-13-6-8-19(9-7-13)11-15(21)12-4-5-14(20(23)24)16(10-12)25-2;/h4-10H,3,11H2,1-2H3;1H
